US06740651B2
Methyl (2-hydroxy-4-methoxy-butylamino)-acetate hydrochloride
11.94 ml of thionylchloride are added dropwise, within 20 minutes, to a suspension of 5.80 g of (2-hydroxy-4-methoxy-butylamino)-acetic acid in 200 ml methanol while cooling with an ice bath. The reaction mixture is allowed to come up to ambient temperature overnight. For working up, the cloudy solution is evaporated to dryness. The residue is stirred several times with 100 ml aliquots of methanol, which is then distilled off in vacuo using the rotary evaporator. The viscous crude product is reacted further without any additional purification.

reactant | thionylchloride | 11.94 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (2-hydroxy-4-methoxy-butylamino)-acetic acid | 5.80 g | OC(CNCC(=O)O)CCOC | C7H15NO4
reactant | methanol | 200 ml | CO | CH4O
product | Methyl (2-hydroxy-4-methoxy-butylamino)-acetate hydrochloride | Cl.OC(CNCC(=O)OC)CCOC | InChI=1S/C8H17NO4.ClH/c1-12-4-3-7(10)5-9-6-8(11)13-2;/h7,9-10H,3-6H2,1-2H3;1H
